### PR TITLE
feat: upstream `Rat.abs` and `Int`/`Rat` lemmas from human-eval-lean

### PR DESCRIPTION
**Pull request by datokrat**
This PR introduces `Rat.abs` and adds missing lemmas about `Int` and `Rat`.

For `Int`:
- Lemmas about the interaction of negation and order: `neg_le_iff`, `le_neg_iff`, `neg_lt_iff`, `lt_neg_iff`

For `Rat`:
- Declaration of `Rat.abs`
- Lemmas for `Rat.abs`, `Rat.floor` and `Rat.ceil`
- More basic lemmas that would all be provable with `grind` but might still be good to have in the library
- Type class instances: `Std.Associative`, `Std.Commutative`, `Std.LawfulIdentity` for addition

### CODE REVIEW

File: src/Init/Data/Int/Order.lean [hunk 1]
```diff
@@ -306,6 +306,12 @@ protected theorem le_of_neg_le_neg {a b : Int} (h : -b ≤ -a) : a ≤ b :=
   suffices - -a ≤ - -b by simp [Int.neg_neg] at this; assumption
   Int.neg_le_neg h
 
+protected theorem neg_le_iff {x y : Int} : - x ≤ y ↔ - y ≤ x := by
```
Comment (TwoFX) [inline src/Init/Data/Int/Order.lean]: Why are you writing `- x` instead of `-x`?

File: src/Init/Data/Rat/Lemmas.lean [hunk 2]
```diff
@@ -764,6 +793,18 @@ protected theorem ne_of_gt {a b : Rat} (ha : a < b) : b ≠ a :=
 protected theorem lt_of_le_of_ne {a b : Rat} (ha : a ≤ b) (hb : a ≠ b) : a < b :=
   Rat.not_le.mp fun h => hb (Rat.le_antisymm ha h)
 
+protected theorem lt_iff_le_not_le {a b : Rat} : a < b ↔ a ≤ b ∧ ¬ b ≤ a := by
```
Comment (TwoFX) [inline src/Init/Data/Rat/Lemmas.lean]: Arguably this one is misnamed, as are its `Int` and `Nat` cousins. Something to fix in the future.

File: src/Init/Data/Int/Order.lean (hunk 1 above)
Comment (TwoFX) [reply src/Init/Data/Int/Order.lean]: Also below in `Rat.abs_of_nonpos`.

Comment (datokrat) [reply src/Init/Data/Int/Order.lean]: I initially thought `- x` was the right formatting similarly to `¬ x`, but then I noticed that we use `-x` everywhere else and overlooked these occurrences.

File: src/Init/Data/Rat/Lemmas.lean (hunk 2 above)
Comment (datokrat) [reply src/Init/Data/Rat/Lemmas.lean]: I'll deprecate the old name.

Comment (datokrat) [reply src/Init/Data/Rat/Lemmas.lean]: I've renamed this lemma and deprecated it for `Int` and `Nat`, in favor of `lt_iff_le_and_not_ge`.

Comment (TwoFX) [reply src/Init/Data/Rat/Lemmas.lean]: Thanks!
